US08217177B2
A 500 mL RB flask was charged with 6-chloropyridazin-3-amine (10.0 g, 77.2 mmol) and dimethoxy-N,N-dimethylmethanamine (206 ml, 1544 mmol), equipped with a reflux condenser, then heated to 110° C. for 3 hours then left at room temperature for 16 hours. The precipitate was collected by filtration. The mother liquor was concentrated down to give an yellow solid, which was triturated with EtOAc and collected. The solids were combined to give (E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylformamidine (11.81 g, 82.9% yield) as a white solid

reactant | 6-chloropyridazin-3-amine | 77.2 mmol, 10.0 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | dimethoxy-N,N-dimethylmethanamine | 1544 mmol, 206 ml | COC(N(C)C)OC | C5H13NO2
product | (E)-N′-(6-chloropyridazin-3-yl)-N,N-dimethylformamidine | 11.81 g, 82.9% yield | ClC1=CC=C(N=N1)/N=C/N(C)C | C7H9ClN4
